US09227985B2
Step 5. [3-Methyl-4-(2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-7-yl)isoxazol-5-yl]methyl benzoate
A solution of 7-bromo-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (687 mg, 2.07 mmol) and {5-[(benzoyloxy)methyl]-3-methylisoxazol-4-yl}boronic acid (1.08 g, 4.14 mmol) in 1,4-dioxane (15.7 mL) and water (4 mL) was degassed with nitrogen. The reaction mixture was treated with [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (253 mg, 0.310 mmol), degassed with nitrogen, and heated in a sealed tube at 80° C. for 30 min, at which time the reaction mixture was treated with {5-[(benzoyloxy)methyl]-3-methylisoxazol-4-yl}boronic acid (1.08 g, 4.14 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (1:1) (10 mg, 12.2 mol), degassed with nitrogen and heated at 80° C. for a further 30 min. The reaction mixture was then diluted with ethyl acetate and water. The organic layer was separated and washed with brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. Purification by flash column chromatography (30% ethyl acetate/hexanes to 100% ethyl acetate [the ethyl acetate contained 5% methanol]) gave the desired product (0.589 g, 58%) as a racemic mixture. LCMS calculated for C26H21N4O5 (M+H)+: m/z=469.1. found: 469.1.

reactant | 7-bromo-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 2.07 mmol, 687 mg | BrC1=CC=C2C=3N(C(COC31)C3=NC=CC=C3)C(N2)=O | C14H10BrN3O2
reactant | {5-[(benzoyloxy)methyl]-3-methylisoxazol-4-yl}boronic acid | 4.14 mmol, 1.08 g | C(C1=CC=CC=C1)(=O)OCC1=C(C(=NO1)C)B(O)O | C12H12BNO5
reactant | dichloromethane | 0.310 mmol, 253 mg | ClCCl | CH2Cl2
reactant | {5-[(benzoyloxy)methyl]-3-methylisoxazol-4-yl}boronic acid | 4.14 mmol, 1.08 g | C(C1=CC=CC=C1)(=O)OCC1=C(C(=NO1)C)B(O)O | C12H12BNO5
reactant | dichloromethane | 12.2 mol, 10 mg | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 15.7 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [3-Methyl-4-(2-oxo-4-pyridin-2-yl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-7-yl)isoxazol-5-yl]methyl benzoate | 0.589 g, 58% | C(C1=CC=CC=C1)(=O)OCC1=C(C(=NO1)C)C1=CC=C2C=3N(C(COC31)C3=NC=CC=C3)C(N2)=O | C26H20N4O5
